US07700583B2
To a mixture of (2H-tetrazol-5-yl)-acetic acid ethyl ester (2.0 g, 12.81 mmol), trityl chloride (3.7 g, 13.45 mmol) in dry THF (75 ml) was added TEA (3.7 ml). The resulting mixture was stirred for 18 hrs. at room temperature. Water (10 ml) was added and the precipitate filtered off, redissolved in EtOAc (25 ml) and washed with saturated aqueous ammonium chloride (2×15 ml). The organic phase was dried (Na2SO4), filtered and evaporated in vacuo. The residue was suspended in ethanol (150 ml) and potassium hydroxide (0.8 g, 13.45 mmol) dissolved in ethanol (100 ml) was added. The resulting mixture was stirred for 18 hrs. at room temperature. The precipitate was filtered off and dissolved in water (150 ml) and acidified with conc. HCl (use diluted HCl). The precipitate was filtered off and washed with diethyl ether and dried in vacuo at 50° C. affording 0.7 g (15%) of (2-trityl-2H-tetrazol-5-yl)-acetic acid as a solid.

reactant | (2H-tetrazol-5-yl)-acetic acid ethyl ester | 12.81 mmol, 2.0 g | C(C)OC(CC=1N=NNN1)=O | C5H8N4O2
reactant | trityl chloride | 13.45 mmol, 3.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | Water | 10 ml | O | H2O
reactant | potassium hydroxide | 13.45 mmol, 0.8 g | [OH-].[K+]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (2-trityl-2H-tetrazol-5-yl)-acetic acid | 0.7 g, 15% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)CC(=O)O | C22H18N4O2
